Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ M with history of hypertension who presents
with chest pain. 

He notes pain over his left anterior chest that radiates to his
back. The pain is worse with deep breathing or coughing. It is
not exacerbated by exertion. It came on 2 days ago while he was
lying in bed. It is been constant since that time and is
associated with shortness of breath. He denies any
lightheadedness, palpitations, abdominal pain, fevers, cough, or
lower extremity pain and swelling. 

In the ED, initial VS were: T 98.7 HR 99 BP 136/78 RR 18 O2 98%
RA 

Exam notable for:  
- Lungs: CTAB. No wheezes, rales, or rhonchi.

ECG: 
- ___: NRS, rate 96, normal axis, normal intervals, no 
ST-T
changes

Labs showed:  
- WBC 11.7, Hgb 11.9, Plt 222
- INR 1.2
- Chem 7 unremarkable
- Trop < 0.01

Imaging showed:
- CTA chest: 
1. Acute pulmonary emboli involving the segmental branch to the
superior
segment of the right lower lobe and the basilar branch of the
left lower lobe.
No CT evidence of right heart strain.
2. Scattered areas of nonenhancing parenchymal opacification in
the left lower
lobe most likely represent pulmonary infarction.
  
Patient received:  IV heparin gtt, IV morphine sulfate 4mg

Transfer VS were: T 99.2 HR 99 BP 128/79 RR 18 O2 98% RA

On arrival to the floor, patient reports that he started feeling
short of breath with exertion about a week ago. He denies
symptoms at rest. His shortness of breath worsened over the past
3 days and he then had onset of chest/rib/back pain that was
severe in nature. He had a recent flight to ___ (20 hours
total) on ___ and after getting of the plane noted his legs
were very swollen. He denies fevers, night sweats, or recent
weight loss and had a colonoscopy a few months ago that was
normal. He has not had any recent surgeries and denies being
immobile at home (walks up to 10mi./day). He does not smoke
tobacco. He has never had a prior DVT/PE and no one in his 
family
has a history of clotting or bleeding. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
PAST MEDICAL HISTORY:  
- HTN
 
Social History:
___
Family History:
FAMILY HISTORY: 
No family history of malignancy or bleeding/clotting disorders. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 97.4 BP 150/83 HR 100 RR 20 O2 94 RA   
GENERAL: Well-appearing, in good spirits, in NAD  
HEENT: NC/AT, EOMI, anicteric sclera, MMM  
NECK: Supple, no JVD at 90 degrees
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: Sbdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No cyanosis, clubbing, or edema  
SKIN: Warm, well-perfused, no rashes
NEURO: Alert, oriented, moving all 4 extremities with purpose,
face symmetric   

DISCHARGE PHYSICAL EXAM:
VS: Tmax 99.2 Tc 99.2 HR 97 BP 131/83 RR 14 O2 96% RA   
GENERAL: Well-appearing, in awake in bed, conversant
HEENT: Anicteric sclera, mucus membranes moist
NECK: Supple, no lymphadenopathy
CV: RRR, no r/m/g  
PULM: CTAB, no wheezes, rales, rhonchi. Pain on deep inspiration
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Warm and well perfused, with no edema or calf 
swelling. 
NEURO: Alert, speech fluent, pleasant in conversation and asking 
questions about apixaban

 
Pertinent Results:
___ 03:40PM   cTropnT-<0.01
___ 06:04AM BLOOD WBC-10.6* RBC-3.59* Hgb-11.4* Hct-33.5* 
MCV-93 MCH-31.8 MCHC-34.0 RDW-12.8 RDWSD-44.0 Plt ___
___ 03:40PM BLOOD Glucose-110* UreaN-12 Creat-1.0 Na-139 
K-3.8 Cl-97 HCO3-25 AnGap-17
___ 06:04AM BLOOD Glucose-116* UreaN-13 Creat-1.1 Na-141 
K-3.4* Cl-101 HCO3-26 AnGap-14
___ 06:04AM BLOOD proBNP-143
___ 06:04AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.3*
___ 06:04AM BLOOD PSA-1.5

Imaging: 
CT angiogram chest: 
IMPRESSION:   
1. Acute pulmonary emboli involving the segmental branch to the 
superior 
segment of the right lower lobe and basilar segmental branches 
of the left 
lower lobe.  No CT evidence of right heart strain. 
2. Scattered areas of nonenhancing parenchymal opacification in 
the left lower lobe most likely represent pulmonary infarction. 

 
Brief Hospital Course:
Mr. ___ is a ___ M with history of hypertension who presented 
with chest pain and shortness of breath, found to have b/l acute 
segmental PE's with no evidence of R heart strain or hemodynamic 
instability, started on heparin drip and subsequently 
transitioned to apixaban.

============
ACUTE ISSUES
============
# Segmental PE
Presented with acute PE (segmental to superior segmental RLL and 
basilar segmental branches of the LLL). Could be provoked after 
recent 20 hour flight to ___, however, the flight was over 
a month ago hence timing not entirely consistent. No history of 
prior DVT/PE, no family history of hypercoagulability, no 
tobacco use, no obesity. 
Regarding routine cancer screening, he was noted to have 
multiple polys on recent colonoscopy ___ with at least one 
with pathology c/w tubulovillous adenoma, and recommendation to 
follow up with cancer genetics given multiple polyps. PSA this 
admission 1.5. 
Regarding treatment, he has been hemodynamically stable without 
evidence of right heart strain (trop, BNP negative). He was 
transitioned to apixaban from heparin gtt with plan for at least 
3 month course. The co-pay for this medication was 200 
dollars/month (apixaban is preferred DOAC for his insurance), 
and we discussed alternate options for patient including lovenox 
bridge to warfarin, as well as lovenox (10 dollars), but he 
preferred to continue with apixaban. 

# Hypomagnesemia/Hypokalemia: Denied diarrhea or recent GI 
losses; not on loop/thiazide diuretic, just amlodipine-benzapril 
at home. Not hypercalcemic, not on other offending medications, 
no known family history of hypomagenesemia, no significant 
alcohol use. His magnesium and potassium were repleted PO.

CHRONIC ISSUES: 
=============== 
# Hypertension
Blood pressures well controlled on arrival. His home 
amlodipine-benzapril 10mg/20mg was held as it is nonformulary, 
and instead was given amlodipine 10mg daily while inpatient, 
restarted at discharge.

# Primary prevention
Based on ___ cholesterol panel and blood pressure, ASCVD 
___ risk >10%. Continued aspirin 81 mg daily.
- TI: Recommend starting moderate to high intensity statin 
therapy 

TRANSITIONAL ISSUES
===================
___ appointments:
- Hematology-oncology follow up as scheduled
- PCP ___ within 7 days

[] Apixaban 10mg bid x7 days (___), followed by 5 mg BID x 
total 3 months
[] Consider starting statin as an outpatient given ASCVD ___ 
risk >10%
[] Outpatient hematology appointment had been already scheduled 
for ___ 
[] Recommend outpatient cancer genetics follow up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. amlodipine-benazepril ___ mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  Apixaban 10 mg PO BID Duration: 7 Days  
3.  Apixaban 5 mg PO BID Duration: 3 Months 
Start on ___ AFTER finishing 10 mg BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) ___ tablets(s) by mouth 
twice a day Disp #*60 Dose Pack Refills:*0 
4.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
5.  amlodipine-benazepril ___ mg oral DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Bilateral segmental pulmonary emboli

 
Discharge Condition:
AfVSS
Alert, oriented x3
Ambulatory without assistance

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your 
hospitalization!

Why were you hospitalized?
- You came to the hospital with shortness of breath and chest 
pain were found to have pulmonary emboli (blood clots in the 
blood vessels in your lungs).

What happened during your hospitalization?
- You were admitted for observation and received morphine and 
Tylenol for pain control. For your blood clots, you were started 
on a blood thinner called apixaban (Eliquis). You will need to 
take 10 mg twice daily x 7 days, followed by 5 mg twice daily 
for least 3 months.
- Your PSA was tested.

What should you do after discharge from the hospital?
- Please continue to take all medications as prescribed.
- Please attend your ___ appointments as scheduled.

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___